US05106871
Then, 30 ml of dimethylformamide was added to 5.0 g of 1-(2-hydroxy-4,6-dimethoxyphenyl)-3-(4-methoxyphenyl)-1-propanone and 420 mg of sodium hydride, and the mixture was stirred at 0° C. for 1 hour. Then, 2.6 g of methyl α-bromoacetate was added to the mixture, and the mixture was stirred at 0° C. for 1 hour and at room temperature for 1 hour to effect a reaction. After the reaction, the reaction mixture was extracted with ethyl acetate and filtered, and the solvent was removed from the filtrate by distillation. The obtained residue was subjected to the silica gel chromatography [230-400 mesh silica gel; eluting solvent=n-hexane/ethyl acetate (2/1)] and recrystallized from a mixed solvent of diethyl ether and n-hexane to obtain 5.3 g (yield=87.1%) of 1-(4,6-dimethoxy-2-methoxycarbonylmethoxyphenyl)-3-(4-methoxyphenyl)-1-propanone in the form of a colorless plate.

reactant | 1-(2-hydroxy-4,6-dimethoxyphenyl)-3-(4-methoxyphenyl)-1-propanone | 5.0 g | OC1=C(C(=CC(=C1)OC)OC)C(CCC1=CC=C(C=C1)OC)=O | C18H20O5
reactant | sodium hydride | 420 mg | [H-].[Na+]
reactant | methyl α-bromoacetate | 2.6 g | BrCC(=O)OC | C3H5BrO2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-(4,6-dimethoxy-2-methoxycarbonylmethoxyphenyl)-3-(4-methoxyphenyl)-1-propanone | 5.3 g, yield=87.1% | COC1=CC(=C(C(=C1)OC)C(CCC1=CC=C(C=C1)OC)=O)OCC(=O)OC | C21H24O7
